* D:\Projekty\PreAMP\LTspice\PreAMP.asc
C1 AntiRIAA 0 120p
R1 AntiRIAA 0 47k
XU1 AntiRIAA N014 +12V -12V N015 LT1028
XU2 N016 N018 +12V -12V N017 LT1028
R2 N015 N014 2k
R3 0 N014 100R
R4 N016 N015 27k
C2 N016 0 15n
C3 0 N019 68n
R5 N016 N019 3k3
C4 Output1 N017 10µ
R6 N017 N018 4k7
R7 0 N018 220R
C5 0 0 100µ
R8 Output1 0 2k
V1 +12V 0 12V
V2 0 -12V 12V
V3 IN 0 SINE() AC 4m
XU3 AntiRIAA N008 +12V -12V N009 LT1028
XU4 N010 N012 +12V -12V N011 LT1028
R9 N009 N008 2k
R10 0 N008 100R
R11 N010 N009 16k
C6 N010 0 47n
C7 0 N013 68n
R12 N010 N013 4k7
C8 Output2 N011 10µ
R13 N011 N012 4k7
R14 0 N012 220R
C9 0 0 100µ
R15 Output2 0 2k
C10 0 N013 68n
XU5 AntiRIAA N001 +12V -12V N002 LT1028
XU6 N003 N005 +12V -12V N004 LT1028
R16 N002 N001 2k
R17 0 N001 100R
R18 N003 N002 22k
C11 N006 0 68n
C12 0 N007 100n
R19 N003 N007 3k18
C13 Output3 N004 10µ
R20 N004 N005 4k7
R21 0 N005 220R
C14 0 0 100µ
R22 Output3 0 2k
E1 AntiRIAA 0 IN 0 Laplace=(1+3180u*S)*(1+75u*S)/(1+318u*S)
R23 N010 N013 4k7
C15 N003 N006 68n
.ac oct 1000 10 30000
* PhonoBox - 2012
* RIAA filter Muffsy
* RIAA filter m6r3k
.lib LTC.lib
.backanno
.end
